US07411072B2
3-(3-Fluoro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenol
Following the procedures essentially as described in Example 219, below, and using 5-bromomethylene-3-fluoro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene (200 mg, 0.660 mmol) and 3-hydroxyphenylboronic acid (100 mg, 0.726 mmol), affords 192 mg (92%) of a mixture of geometric isomers of the title compound as a yellow oil. MS (ES) 339 (M+Na), 315 (M−H); HPLC shows 95% purity.

reactant | 5-bromomethylene-3-fluoro-10,11-dihydro-5H-dibenzo[a,d]cycloheptene | 0.660 mmol, 200 mg | BrC=C1C2=C(CCC3=C1C=C(C=C3)F)C=CC=C2 | C16H12BrF
reactant | 3-hydroxyphenylboronic acid | 0.726 mmol, 100 mg | OC=1C=C(C=CC1)B(O)O | C6H7BO3
product | 3-(3-Fluoro-10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenol | FC=1C=CC2=C(C(C3=C(CC2)C=CC=C3)=CC=3C=C(C=CC3)O)C1 | C22H17FO
